US09216999B2
1-(4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)propan-1-ol
4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (117 mg, 0.360 mmol) in tetrahydrofuran (2 mL) was mixed with ethylmagnesium bromide-tetrahydrofuran solution (1.0 M, 1.0 mL, 1.0 mmol) under cooling with ice and stirred at room temperature for one day. After addition of saturated aqueous ammonium chloride, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1 (v/v)) to give the title compound as a colorless oil (75.6 mg, yield 62%).

reactant | 4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 0.360 mmol, 117 mg | ClC1=C2C(=NC=C1C=O)N(C=C2)COCC[Si](C)(C)C | C14H19ClN2O2Si
reactant | ethylmagnesium bromide tetrahydrofuran | 1.0 mmol, 1.0 M, 1.0 mL | C(C)[Mg]Br.O1CCCC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-(4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)propan-1-ol | 75.6 mg, yield 62% | ClC1=C2C(=NC=C1C(CC)O)N(C=C2)COCC[Si](C)(C)C | C16H25ClN2O2Si
